US04859691
A solution containing 1-dimethylcarbamoyl-4-(3-trimethylsilyloxypropyl)-imidazole (6.7 g, 0.025 mole), and 3-bromomethyl-1,2-benzisoxazole (5.3 g, 0.025 mole) in anhydrous acetonitrile (30 mL) is stirred at reflux for 72 hours. The reaction mixture is cooled and mixed with a solution of sodium methoxide (3 g, 0.055 mole) in methanol (30 mL). The resulting solution is stirred at reflux for 26 hours. The solvents are evaporated and the residue is taken up in 1N hydrochloric acid (30 mL). This solution is allowed to stand at ambient temperature for 3 hours and is then made basic (pH 9) by addition of 50% aqueous sodium hydroxide solution. The mixture is extracted with methylene chloride (2×25 mL) and the combined extracts are washed with water (2×20 mL), dried over anhydrous sodium sulfate, filtered, and the solvent is evaporated to give crude 3-[(5-(3-hydroxypropyl)-1H-imidazol-1-yl)methyl]-1,2-benzisoxazole which is purified by trituration with acetone (15 mL), m.p. 129°-131° C. The compound forms a hydrochloride hemihydrate, m.p. 155°-157° C. when its solution in isopropanol is treated with ethereal hydrogen chloride.

reactant | 1-dimethylcarbamoyl-4-(3-trimethylsilyloxypropyl)-imidazole | 0.025 mole, 6.7 g | CN(C(=O)N1C=NC(=C1)CCCO[Si](C)(C)C)C | C12H23N3O2Si
reactant | 3-bromomethyl-1,2-benzisoxazole | 0.025 mole, 5.3 g | BrCC1=NOC2=C1C=CC=C2 | C8H6BrNO
reactant | sodium methoxide | 0.055 mole, 3 g | C[O-].[Na+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | methanol | 30 mL | CO | CH4O
product | 3-[(5-(3-hydroxypropyl)-1H-imidazol-1-yl)methyl]-1,2-benzisoxazole | OCCCC1=CN=CN1CC1=NOC2=C1C=CC=C2 | C14H15N3O2
